US06326359B1
2,2,2-Trifluoro-1-(4-phenyl-1-piperidinyl)-1-ethanone
Trifluoroacetic anhydride (32.6 g, 0.155 mol) was slowly added to a stirred solution of 4-phenylpiperidine (25 g, 0.155 mol) and N-methylmorpholine (15.6 g, 0.155 mol) in dichloromethane (250 ml) at between −10° C. and −15° C. The reaction mixture was allowed to warm to room temperature and then stirred for a further 24 hr. The reaction mixture was then washed with water (100 ml), dried with anhydrous magnesium sulfate and the solvent removed under reduced pressure to give a residue which was purified by column chromatography on silica gel eluting with hexane:ethyl acetate (7:3) to give the title compound (34.5 g) as a gum.

reactant | Trifluoroacetic anhydride | 0.155 mol, 32.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-phenylpiperidine | 0.155 mol, 25 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | N-methylmorpholine | 0.155 mol, 15.6 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-1-(4-phenyl-1-piperidinyl)-1-ethanone | 34.5 g | FC(C(=O)N1CCC(CC1)C1=CC=CC=C1)(F)F | C13H14F3NO
